US04322563
Step B: Preparation of Methyl (E)-7-[2,4-dichloro-6-(4-fluorophenyl)phenyl]-5-hydroxy-3-oxo-6-heptenoate
Methyl acetoacetate (9.56 g, 82.3 mmole) is added dropwise to a stirred suspension of sodium hydride (50% oil suspension) (3.95 g, 82.3 mmole) in anhydrous tetrahydrofuran at 0° C. under a nitrogen atmosphere. The resulting solution is stirred 15 minutes at 0° C. and then treated with a 1.6 M solution (51.5 ml, 82.3 mmole) of n-butyllithium in hexane over 5 minutes. The resulting solution is stirred 15 minutes at 0° C. and then treated with a solution of (E)-2,4-dichloro-6-(4-fluorophenyl)cinnamaldehyde (82.3 mmole) in anhydrous tetrahydrofuran (150 ml). The resulting orange solution is stirred 15 minutes at 0° C. and then quenched by dropwise addition of 12 N hydrochloric acid (ca. 20 ml). The reaction mixture is diluted with water (100 ml) and extracted with ether (3×300 ml). The organic extracts are combined, washed with brine (3×100 ml), dried over magnesium sulfate and filtered. The filtrate is evaporated in vacuo leaving the title compound as an oil.

reactant | Methyl acetoacetate | 82.3 mmole, 9.56 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydride | 82.3 mmole, 3.95 g | [H-].[Na+]
reactant | n-butyllithium | C(CCC)[Li]
reactant | (E)-2,4-dichloro-6-(4-fluorophenyl)cinnamaldehyde | 82.3 mmole | ClC1=C(/C=C/C=O)C(=CC(=C1)Cl)C1=CC=C(C=C1)F | C15H9Cl2FO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | Methyl (E)-7-[2,4-dichloro-6-(4-fluorophenyl)phenyl]-5-hydroxy-3-oxo-6-heptenoate | ClC1=C(C(=CC(=C1)Cl)C1=CC=C(C=C1)F)/C=C/C(CC(CC(=O)OC)=O)O | C20H17Cl2FO4
